US05633247
1,3-Dihydro-1-oxo-1'-[2-(4-nitrophenyl)-1-ethyl]-spiro[2H-indene-2,4'-piperidine]
A mixture of 0.60 g (3.0 moles) 1,3-dihydro-1-oxospiro[2H-indene-2,4'-piperidine], 0.71 g (3.1 mmoles) 4-nitrophenethyl bromide, and 0.28 g (3.3 mmoles) sodium bicarbonate in 3 ml ethanol was heated at reflux for 6 hours. The solvent was removed in vacuo and the residue was partitioned between 20 ml ethyl acetate and 5 ml dilute bicarbonate solution. The layers were separated and the aqueous layer was extracted with 20 ml ethyl acetate. The combined extract was washed wth 5 ml water and brine, dried, and the solvent was removed in vacuo to give 1.08 g crude product as a gum. This was purified by flash chromatography on silica gel eluting with methanol:chloroform (2:98). The material obtained was crystallized from 1:10 methylene chloride:ether to give 0.61 g (58%) product, m.p. 187°-188° C.

reactant | 1,3-dihydro-1-oxospiro[2H-indene-2,4'-piperidine] | 3.0 moles, 0.60 g | O=C1C2=CC=CC=C2CC12CCNCC2 | C13H15NO
reactant | 4-nitrophenethyl bromide | 3.1 mmoles, 0.71 g | [N+](=O)([O-])C1=CC=C(CCBr)C=C1 | C8H8BrNO2
reactant | sodium bicarbonate | 3.3 mmoles, 0.28 g | C([O-])(O)=O.[Na+]
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | 1,3-Dihydro-1-oxo-1'-[2-(4-nitrophenyl)-1-ethyl]-spiro[2H-indene-2,4'-piperidine] | 0.61 g, 58% | O=C1C2=CC=CC=C2CC12CCN(CC2)CCC2=CC=C(C=C2)[N+](=O)[O-] | C21H22N2O3
